* CSD18536KTT
**********************************************************************
* (C) Copyright 2020 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
**Released by: Texas Instruments Inc.
* Part: CSD18536KTT
* Date: 21JAN2020
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SLPS588–MARCH 2016
* Model Version: Final 1.00
**
****************************************************************************
**Updates:
**Final 1.00
* Release to Web
**
****************************************************************************
**Model Usage Notes:
**
* *
* CSD18536KTT - PSpice Model for use with OrCAD *
* *
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
.SUBCKT CSD18536KTT  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.00e-3  
 .PARAM  ptrc2    0.0e-5
 .PARAM  pwidthP  29.1242
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
*cgs	5	8	0.15e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {pwidthP/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 0.625
RSB  12  9	 RTEMP 0.23166e-6
RSS   9  8 	 RTEMP 0.23166e-6
RSP   8  6 	 0.45e-6
LSS   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 1.21e-3
RDP   4  7	 0.5e-6
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.75        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.45e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.06 RS=4.00e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18536KTT  
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.137E-09	)
+	(	0.5	1.094E-09	)
+	(	1	1.006E-09	)
+	(	1.5	9.4E-10	)
+	(	2	8.832E-10	)
+	(	2.5	8.342E-10	)
+	(	3	7.801E-10	)
+	(	3.5	7.244E-10	)
+	(	4	6.785E-10	)
+	(	4.5	6.402E-10	)
+	(	5	6.052E-10	)
+	(	5.5	5.74E-10	)
+	(	6	5.466E-10	)
+	(	6.5	5.201E-10	)
+	(	7	4.971E-10	)
+	(	7.5	4.729E-10	)
+	(	8	4.507E-10	)
+	(	8.5	4.198E-10	)
+	(	9	2.982E-10	)
+	(	9.5	1.49E-10	)
+	(	10	1.234E-10	)
+	(	10.5	1.182E-10	)
+	(	11	1.14E-10	)
+	(	11.5	1.102E-10	)
+	(	12	1.07E-10	)
+	(	12.5	1.039E-10	)
+	(	13	1.01E-10	)
+	(	13.5	9.825E-11	)
+	(	14	9.559E-11	)
+	(	14.5	9.3E-11	)
+	(	15	9.063E-11	)
+	(	15.5	8.822E-11	)
+	(	16	8.593E-11	)
+	(	16.5	8.362E-11	)
+	(	17	8.136E-11	)
+	(	17.5	7.913E-11	)
+	(	18	7.685E-11	)
+	(	18.5	7.445E-11	)
+	(	19	7.171E-11	)
+	(	19.5	6.875E-11	)
+	(	20	6.581E-11	)
+	(	20.5	6.301E-11	)
+	(	21	6.052E-11	)
+	(	21.5	5.868E-11	)
+	(	22	5.745E-11	)
+	(	22.5	5.659E-11	)
+	(	23	5.592E-11	)
+	(	23.5	5.537E-11	)
+	(	24	5.49E-11	)
+	(	24.5	5.448E-11	)
+	(	25	5.41E-11	)
+	(	25.5	5.376E-11	)
+	(	26	5.342E-11	)
+	(	26.5	5.312E-11	)
+	(	27	5.282E-11	)
+	(	27.5	5.253E-11	)
+	(	28	5.223E-11	)
+	(	28.5	5.194E-11	)
+	(	29	5.165E-11	)
+	(	29.5	5.137E-11	)
+	(	30	5.107E-11	)
+	(	30.5	5.08E-11	)
+	(	31	5.05E-11	)
+	(	31.5	5.021E-11	)
+	(	32	4.991E-11	)
+	(	32.5	4.962E-11	)
+	(	33	4.933E-11	)
+	(	33.5	4.902E-11	)
+	(	34	4.873E-11	)
+	(	34.5	4.843E-11	)
+	(	35	4.813E-11	)
+	(	35.5	4.782E-11	)
+	(	36	4.751E-11	)
+	(	36.5	4.719E-11	)
+	(	37	4.689E-11	)
+	(	37.5	4.658E-11	)
+	(	38	4.625E-11	)
+	(	38.5	4.592E-11	)
+	(	39	4.561E-11	)
+	(	39.5	4.527E-11	)
+	(	40	4.494E-11	)
+	(	40.5	4.463E-11	)
+	(	41	4.429E-11	)
+	(	41.5	4.395E-11	)
+	(	42	4.362E-11	)
+	(	42.5	4.328E-11	)
+	(	43	4.292E-11	)
+	(	43.5	4.257E-11	)
+	(	44	4.224E-11	)
+	(	44.5	4.19E-11	)
+	(	45	4.156E-11	)
+	(	45.5	4.122E-11	)
+	(	46	4.087E-11	)
+	(	46.5	4.052E-11	)
+	(	47	4.018E-11	)
+	(	47.5	3.985E-11	)
+	(	48	3.951E-11	)
+	(	48.5	3.917E-11	)
+	(	49	3.882E-11	)
+	(	49.5	3.849E-11	)
+	(	50	3.814E-11	)
+	(	50.5	3.781E-11	)
+	(	51	3.748E-11	)
+	(	51.5	3.715E-11	)
+	(	52	3.682E-11	)
+	(	52.5	3.65E-11	)
+	(	53	3.618E-11	)
+	(	53.5	3.586E-11	)
+	(	54	3.555E-11	)
+	(	54.5	3.524E-11	)
+	(	55	3.494E-11	)
+	(	55.5	3.463E-11	)
+	(	56	3.434E-11	)
+	(	56.5	3.405E-11	)
+	(	57	3.375E-11	)
+	(	57.5	3.348E-11	)
+	(	58	3.32E-11	)
+	(	58.5	3.294E-11	)
+	(	59	3.267E-11	)
+	(	59.5	3.241E-11	)
+	(	60	3.217E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.7513E-08	)
+	(	0.5	1.6506E-08	)
+	(	1	1.5844E-08	)
+	(	1.5	1.523E-08	)
+	(	2	1.44968E-08	)
+	(	2.5	1.37458E-08	)
+	(	3	1.31099E-08	)
+	(	3.5	1.25156E-08	)
+	(	4	1.19115E-08	)
+	(	4.5	1.13698E-08	)
+	(	5	1.09048E-08	)
+	(	5.5	1.0516E-08	)
+	(	6	1.01634E-08	)
+	(	6.5	9.8499E-09	)
+	(	7	9.5529E-09	)
+	(	7.5	9.2801E-09	)
+	(	8	9.0373E-09	)
+	(	8.5	8.8212E-09	)
+	(	9	8.7118E-09	)
+	(	9.5	8.6E-09	)
+	(	10	8.3236E-09	)
+	(	10.5	7.9568E-09	)
+	(	11	6.987E-09	)
+	(	11.5	4.7568E-09	)
+	(	12	4.46E-09	)
+	(	12.5	4.2931E-09	)
+	(	13	4.126E-09	)
+	(	13.5	3.98075E-09	)
+	(	14	3.85541E-09	)
+	(	14.5	3.74E-09	)
+	(	15	3.62437E-09	)
+	(	15.5	3.52278E-09	)
+	(	16	3.42107E-09	)
+	(	16.5	3.33138E-09	)
+	(	17	3.24164E-09	)
+	(	17.5	3.15487E-09	)
+	(	18	3.07515E-09	)
+	(	18.5	2.99255E-09	)
+	(	19	2.91929E-09	)
+	(	19.5	2.84625E-09	)
+	(	20	2.77219E-09	)
+	(	20.5	2.70299E-09	)
+	(	21	2.63448E-09	)
+	(	21.5	2.56832E-09	)
+	(	22	2.50255E-09	)
+	(	22.5	2.44241E-09	)
+	(	23	2.38108E-09	)
+	(	23.5	2.32163E-09	)
+	(	24	2.2651E-09	)
+	(	24.5	2.21252E-09	)
+	(	25	2.1579E-09	)
+	(	25.5	2.10924E-09	)
+	(	26	2.06058E-09	)
+	(	26.5	2.01688E-09	)
+	(	27	1.97518E-09	)
+	(	27.5	1.93547E-09	)
+	(	28	1.89777E-09	)
+	(	28.5	1.86306E-09	)
+	(	29	1.83235E-09	)
+	(	29.5	1.80263E-09	)
+	(	30	1.77393E-09	)
+	(	30.5	1.7482E-09	)
+	(	31	1.7245E-09	)
+	(	31.5	1.70179E-09	)
+	(	32	1.68209E-09	)
+	(	32.5	1.66438E-09	)
+	(	33	1.64667E-09	)
+	(	33.5	1.63098E-09	)
+	(	34	1.61527E-09	)
+	(	34.5	1.60157E-09	)
+	(	35	1.58887E-09	)
+	(	35.5	1.57618E-09	)
+	(	36	1.56549E-09	)
+	(	36.5	1.55481E-09	)
+	(	37	1.54511E-09	)
+	(	37.5	1.53542E-09	)
+	(	38	1.52675E-09	)
+	(	38.5	1.51808E-09	)
+	(	39	1.51039E-09	)
+	(	39.5	1.50273E-09	)
+	(	40	1.49606E-09	)
+	(	40.5	1.48937E-09	)
+	(	41	1.48271E-09	)
+	(	41.5	1.47705E-09	)
+	(	42	1.47138E-09	)
+	(	42.5	1.46672E-09	)
+	(	43	1.46108E-09	)
+	(	43.5	1.45643E-09	)
+	(	44	1.45176E-09	)
+	(	44.5	1.4471E-09	)
+	(	45	1.44344E-09	)
+	(	45.5	1.43878E-09	)
+	(	46	1.43513E-09	)
+	(	46.5	1.43148E-09	)
+	(	47	1.42782E-09	)
+	(	47.5	1.42415E-09	)
+	(	48	1.42049E-09	)
+	(	48.5	1.41783E-09	)
+	(	49	1.41418E-09	)
+	(	49.5	1.41151E-09	)
+	(	50	1.40886E-09	)
+	(	50.5	1.40619E-09	)
+	(	51	1.40352E-09	)
+	(	51.5	1.40085E-09	)
+	(	52	1.39918E-09	)
+	(	52.5	1.3965E-09	)
+	(	53	1.39482E-09	)
+	(	53.5	1.39214E-09	)
+	(	54	1.39045E-09	)
+	(	54.5	1.38876E-09	)
+	(	55	1.38706E-09	)
+	(	55.5	1.38537E-09	)
+	(	56	1.38366E-09	)
+	(	56.5	1.38195E-09	)
+	(	57	1.38025E-09	)
+	(	57.5	1.37852E-09	)
+	(	58	1.3768E-09	)
+	(	58.5	1.37606E-09	)
+	(	59	1.37433E-09	)
+	(	59.5	1.37359E-09	)
+	(	60	1.37183E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*$


